US04692532
N-(3-methyl-4-hydroxy-5-tert-butylphenylthiomethyl)phthalimide
The procedure of Example 1 was repeated using 8.46 grams of 3-methyl-4-hydroxy-5-tert-butylbenzenethiol, 1.72 grams of potassium hydroxide, and 8.43 grams of N-(chloromethyl) phthalimide . Recrystallization from ethyl acetate-heptane afforded 7.1 grams of product with m.p. 114°-116° C.

reactant | 3-methyl-4-hydroxy-5-tert-butylbenzenethiol | 8.46 grams | CC=1C=C(C=C(C1O)C(C)(C)C)S | C11H16OS
reactant | potassium hydroxide | 1.72 grams | [OH-].[K+]
reactant | N-(chloromethyl) phthalimide | 8.43 grams | ClCN1C(C=2C(C1=O)=CC=CC2)=O | C9H6ClNO2
product | N-(3-methyl-4-hydroxy-5-tert-butylphenylthiomethyl)phthalimide | 7.1 grams | CC=1C=C(C=C(C1O)C(C)(C)C)SCN1C(C=2C(C1=O)=CC=CC2)=O | C20H21NO3S
